US08017779B2
7-Bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline (20 g) was dissolved in chloroform (400 mL). 3-Chloroperoxybenzoic acid (60% pure, 17.1 g) was added in 2 g portions over a 5 minute period and the reaction was stirred for 1 hour. Ammonium hydroxide (300 mL) was added and the mixture was cooled to 5° C. with an ice/water bath. p-Toluenesulfonyl chloride (9.4 g) was added at the rate of 1 g/min to minimize gas evolution. After stirring for 16 hours, the layers were separated and the aqueous fraction was extracted with chloroform. The combined organic fractions were sequentially washed with 5% aqueous sodium bicarbonate, water and brine; dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel. The polar component of the eluent was chloroform:methanol:ammonium hydroxide 80:18:2 (CMA). The purification was carried out eluting with chloroform:CMA in a gradient from 98:2 to 88:12. The material recovered from the column was recrystallized from acetonitrile to yield 7.0 g of 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine as a tan granular powder.

reactant | 7-Bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline | 20 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCOC(C)C)COCC | C19H24BrN3O2
reactant | 3-Chloroperoxybenzoic acid | 17.1 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Ammonium hydroxide | 300 mL | [OH-].[NH4+]
reactant | p-Toluenesulfonyl chloride | 9.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 7.0 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCCOC(C)C)COCC | C19H25BrN4O2
